* c:\fossee\esim\library\subcircuitlibrary\mux_and\mux_and.cir

* u3  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad4_ d_and
* u4  net-_u2-pad2_ net-_u1-pad3_ net-_u1-pad5_ d_and
* u5  net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ d_or
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ port
* u2  net-_u1-pad1_ net-_u2-pad2_ d_inverter
a1 [net-_u1-pad1_ net-_u1-pad2_ ] net-_u1-pad4_ u3
a2 [net-_u2-pad2_ net-_u1-pad3_ ] net-_u1-pad5_ u4
a3 [net-_u1-pad4_ net-_u1-pad5_ ] net-_u1-pad6_ u5
a4 net-_u1-pad1_ net-_u2-pad2_ u2
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u3 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u4 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u5 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
